US07700628B2
A. Methyl 2-[3-[(tert-Butoxycarbonyl)(methyl)amino]-2,2-dimethylpropoxy]-4-tert-butylbenzoate
To a solution of methyl 2-(3-tert-butoxycarbonylamino-2,2-dimethylpropoxy)-4-tert-butylbenzoate (2.50 g, 6.35 mmol) in THF at 0° C. under N2 was added methyl iodide (4.51 g, 31.8 mmol, 5 eq), followed by sodium bis(trimethylsilyl)amide (12.7 mL, 12.7 mmol, 1.0 M in THF). The cooling bath was allowed to slowly warm to room temperature. The reaction was stirred at room temerature for 2.5 days, then diluted with dichloromethane, washed with water and brine, dried, and concentrated in vacuo to give 1.60 g (61.8%) of the desired product as a viscous oil which was used without further purification.

reactant | methyl 2-(3-tert-butoxycarbonylamino-2,2-dimethylpropoxy)-4-tert-butylbenzoate | 6.35 mmol, 2.50 g | C(C)(C)(C)OC(=O)NCC(COC1=C(C(=O)OC)C=CC(=C1)C(C)(C)C)(C)C | C22H35NO5
reactant | methyl iodide | 31.8 mmol, 4.51 g, 5 eq | CI | CH3I
reactant | sodium bis(trimethylsilyl)amide | 12.7 mmol, 1.0 M, 12.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 2-[3-[(tert-Butoxycarbonyl)(methyl)amino]-2,2-dimethylpropoxy]-4-tert-butylbenzoate | 1.60 g, 61.8% | C(C)(C)(C)OC(=O)N(CC(COC1=C(C(=O)OC)C=CC(=C1)C(C)(C)C)(C)C)C | C23H37NO5
